US08138187B2
3-(2-(4-Methylpiperazin-1-yl)ethyl)-1H-indole (Ind-68)
3-(2-Bromo-ethyl)-indole (3.00 g, 13.39 mmol) was initially introduced into abs. CHCl3 (25 ml), and 1-methylpiperazine (2.68 g, 26.8 mmol) was added. The mixture was stirred at a bath temperature of 75° C. for 5 h and at RT overnight. The mixture was extracted dilute sulfuric acid (2×30 ml), the acidic aqueous phase was rendered alkaline with 5N NaOH, while cooling with ice, and the mixture was extracted with ether (3×30 ml). The organic phase was dried over Na2SO4 and concentrated i. vac. Yield: 1.45 g (Ind-68, 45%)

reactant | 3-(2-Bromo-ethyl)-indole | 13.39 mmol, 3.00 g | BrCCC1=CNC2=CC=CC=C12 | C10H10BrN
reactant | 1-methylpiperazine | 26.8 mmol, 2.68 g | CN1CCNCC1 | C5H12N2
solvent | CHCl3 | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-(2-(4-Methylpiperazin-1-yl)ethyl)-1H-indole | CN1CCN(CC1)CCC1=CNC2=CC=CC=C12 | C15H21N3
